US07361682B2
[5-((S)-1-Cyclopropylmethyl-pyrrolidin-3-yloxy)-1H-indol-2-yl]-morpholin-4-yl-methanone
According to the procedure described for the synthesis of [5-((S)-1-Isopropyl-pyrrolidin-3-yloxy)-1H-indol-2-yl]-morpholin-4-yl-methanone the title compound was synthesized from Morpholin-4-yl-[5-((S)-pyrrolidin-3-yloxy)-1H-indol-2-yl]-methanone and bromomethyl-cyclopropane. The title compound was obtained as light yellow solid. MS (m/e): 370.3 (MH+, 100%).

reactant | Morpholin-4-yl-[5-((S)-pyrrolidin-3-yloxy)-1H-indol-2-yl]-methanone | N1(CCOCC1)C(=O)C=1NC2=CC=C(C=C2C1)O[C@@H]1CNCC1 | C17H21N3O3
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | [5-((S)-1-Cyclopropylmethyl-pyrrolidin-3-yloxy)-1H-indol-2-yl]-morpholin-4-yl-methanone | C1(CC1)CN1C[C@H](CC1)OC=1C=C2C=C(NC2=CC1)C(=O)N1CCOCC1 | C21H27N3O3
